US07439393B2
v) 4-((R)-2-{6-[2-(2,6-Dichlorobenzyloxy)-ethoxy]-hexylamino}-1-hydroxyethyl)-2-hydroxymethyl-phenol
1N HCl (295 mL) was added to a solution of (R)-2-{6-[2-(2,6-dichlorobenzyloxy)-ethoxy]-hexylamino}-1-(2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)-ethanol (52 g, 0.099 mol) in ethanol (312 mL), and the reaction stirred at ambient temperature for 1.5 h. Saturated sodium bicarbonate solution (500 mL) was added followed by dichloromethane (500 mL). The aqueous layer was separated and extracted with further dichloromethane (500 mL). The combined organic solutions were washed with water/brine mixture (500 mL/100 mL), then evaporated. The residue (50 g) was chromatographed on silica (800 g, Biotage) eluting with a dichloromethane/ethanol/ammonia mixture (50/8/1), to afford the title compound as an oil (35.2 g)-LC RT=4.1 min.

reactant | HCl | 1N, 295 mL | Cl | ClH
reactant | (R)-2-{6-[2-(2,6-dichlorobenzyloxy)-ethoxy]-hexylamino}-1-(2,2-dimethyl-4H-benzo[1,3]dioxin-6-yl)-ethanol | 0.099 mol, 52 g | ClC1=C(COCCOCCCCCCNC[C@H](O)C=2C=CC3=C(COC(O3)(C)C)C2)C(=CC=C1)Cl | C27H37Cl2NO5
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | ethanol | 312 mL | C(C)O | C2H6O
product | 4-((R)-2-{6-[2-(2,6-Dichlorobenzyloxy)-ethoxy]-hexylamino}-1-hydroxyethyl)-2-hydroxymethyl-phenol | 35.2 g | ClC1=C(COCCOCCCCCCNC[C@H](O)C2=CC(=C(C=C2)O)CO)C(=CC=C1)Cl | C24H33Cl2NO5
